US06417200B1
A) N1,N2-bis(3-cyanobenzoyl)-1,2-benzenediamine
Using a procedure similar to Example 1D, except starting with 1,2-benzenediamine and 3-cyanobenzoyl chloride with triethylamine as base, the title compound was obtained as an off-white solid (18%); IR(KBr): 3362, 2238, 1656, 1552 cm1; NMR(300 MHz, DMSO-d6): 7.33 (m,2H); 7.64 (m, 2H); 7.73 (t, 2H, J=9.5 Hz); 8.05 (d, 2H, J=9.3 Hz); 8.24 (d, 2H, J=9.9 Hz); 8.35 (s, 2H); 10.18 (br s, 2H); MS(FD): 366.1.

reactant | 1,2-benzenediamine | C=1(C(=CC=CC1)N)N | C6H8N2
reactant | 3-cyanobenzoyl chloride | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N1,N2-bis(3-cyanobenzoyl)-1,2-benzenediamine | C(#N)C=1C=C(C(=O)NC=2C(=CC=CC2)NC(C2=CC(=CC=C2)C#N)=O)C=CC1 | C22H14N4O2
